US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-3-(2-methyl-thiazol-4-yl-methyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=597.0 (M+H+), was prepared in accordance with the general method of example 99 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one 1-benzyl-piperidin-4-one and 4-chloromethyl-2-methylthiazole.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one 1-benzyl-piperidin-4-one | C(C1=CC=CC=C1)N1CCC(CC1)=O.FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=CC=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F
reactant | 4-chloromethyl-2-methylthiazole | ClCC=1N=C(SC1)C | C5H6ClNS
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-3-(2-methyl-thiazol-4-yl-methyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=CC=CC=C3)C)CC=3N=C(SC3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C28H26F6N4O2S
